** sch_path: /foss/designs/analog-perceptron-gf180mcu/schematics/tanh_ota.sch
.subckt tanh_ota VDD V_ref V_out V_in_p V_in_n V_bias VSS
*.PININFO VDD:B VSS:B V_in_p:I V_in_n:I V_bias:I V_out:O V_ref:B
M1 net2 V_in_p net1 VSS nfet_03v3 L=0.5u W=10u nf=1
M2 V_out V_in_n net1 VSS nfet_03v3 L=0.5u W=10u nf=1
M3 net1 V_bias VSS VSS nfet_03v3 L=0.5u W=10u nf=1
M4 net2 net2 VDD VDD pfet_03v3 L=0.5u W=20u nf=1
M5 V_out net2 VDD VDD pfet_03v3 L=0.5u W=20u nf=1
XR1 V_out V_ref VSS ppolyf_u_1k r_width=3e-6 r_length=74.4e-6
.ends
